US07205306B2
5-Chloro-3-(7-chloro-5-methoxy-2,3-dihydro-1H-indol-1-yl)-1-(1-cyclobutylpropyl)-2(1H)-pyrazinone
Prepared in a similar fashion as described for Example 413 using 3,5-dichloro-1-(1-cyclobutylpropyl)-2(1H)-pyrazinone and 7-chloro-5-methoxyindoline hydrochloride as the starting materials to give a yellow oil. 1H NMR (300 MHz, CDCl3): δ 6.74 (s, 2H), 6.67 (s, 1H), 4.90–4.80 (m, 1H), 4.34 (t, J=7.9 Hz, 2H), 3.78 (s, 3H), 3.10 (t, J=7.7 Hz, 2H), 2.60–2.50 (m, 1H), 2.18–2.12 (m, 1H), 1.90–1.70 (m, 6H), 1.55–1.43 (m, 1H), 0.84 (t, J=7.5 Hz, 3H); HRMS (ESI) m/z 408.1270 [(M+H)+, calcd for C20H24N3O2Cl2 408.1246].

reactant | 3,5-dichloro-1-(1-cyclobutylpropyl)-2(1H)-pyrazinone | ClC=1C(N(C=C(N1)Cl)C(CC)C1CCC1)=O | C11H14Cl2N2O
reactant | 7-chloro-5-methoxyindoline hydrochloride | Cl.ClC=1C=C(C=C2CCNC12)OC
product | 5-Chloro-3-(7-chloro-5-methoxy-2,3-dihydro-1H-indol-1-yl)-1-(1-cyclobutylpropyl)-2(1H)-pyrazinone | ClC=1N=C(C(N(C1)C(CC)C1CCC1)=O)N1CCC2=CC(=CC(=C12)Cl)OC | C20H23Cl2N3O2
